US07648710B2
Preparation of the Tocopheryl Phosphate Mixture
Take 500 g dl-alpha-tocopherol and mix with a high shear mixer 4 aliquots each of 21 g of P4O10 at 12 minute intervals, holding the temperature above 60° C. While the mixture is still hot, add over 1.5 hours 91.5 g of sodium hydroxide which has been dissolved in 62.5 g of water at 50° C. to hydrolyse and neutralise the tocopheryl phosphates. The product was cooled to ambient temperature then further cooled with liquid nitrogen to give a brittle product that was ground to a powder and dried under vacuum.

reactant | dl-alpha-tocopherol | 500 g | CC1=C(C(=C2CCC(OC2=C1C)(C)CCCC(C)CCCC(C)CCCC(C)C)C)O | C29H50O2
reactant | P4O10 | 21 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | 91.5 g | [OH-].[Na+]
solvent | water | 62.5 g | O | H2O
product | Tocopheryl Phosphate | CC1=C2C(=C(C(=C1C)OP(=O)(O)O)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C29H51O5P
